US09056858B2
Synthesis of 1-(5-bromo-pyrimidin-2-yl)-cyclopropylamine dihydrochloride (4)
[1-(5-Bromo-pyrimidin-2-yl)-cyclopropyl]-carbamic acid tert-butyl ester (1.18 g, 3.76 mmol) is dissolved in CH2Cl2 (5 mL) at room temperature. A 4M solution of HCl in dioxane (9.4 mL, 38 mmol) is added. After 2 hours, solvents are removed by a stream of N2 to afford crude title compound as a solid, which is used without purification (ES+ m/z 216.3).

reactant | [1-(5-Bromo-pyrimidin-2-yl)-cyclopropyl]-carbamic acid tert-butyl ester | 3.76 mmol, 1.18 g | C(C)(C)(C)OC(NC1(CC1)C1=NC=C(C=N1)Br)=O | C12H16BrN3O2
reactant | HCl | Cl | ClH
reactant | dioxane | 38 mmol, 9.4 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-bromo-pyrimidin-2-yl)-cyclopropylamine dihydrochloride | Cl.Cl.BrC=1C=NC(=NC1)C1(CC1)N | InChI=1S/C7H8BrN3.2ClH/c8-5-3-10-6(11-4-5)7(9)1-2-7;;/h3-4H,1-2,9H2;2*1H
